Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Shellfish / Lipitor
 
Attending: ___.
 
Chief Complaint:
Bradycardia, weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with longstanding history of sinus bradycardia and
hypothyroidism presents with weakness that started overnight. 

She was reportedly with her son earlier tonight who noted her to
have difficulty ambulating. He report she is normally able to
ambulate without difficulty. He decided to stay with her to
monitor her; later in the night she woke from sleep with 
malaise.
He called EMS at her request and she was brought here for 
further
evaluation. She was found to be bradycardic to the 40's on
arrival. He reports she lives with her other son at home. 

Per son's report:
Her son denies that she has any cardiac or abdominal problems. 
He
denies she has a h/o CVA. Of note he reports her legs are 
swollen
at baseline but reports they have been increasingly swollen
today. Of note a full history is limited as patient is a poor
historian.

No LH or dizziness. No syncope. Some "tightness" in her legs.
Poor PO intake. No fever, chills. No CP, SOB, or change in
chronic ___ edema. 

In the ED, initial VS were:  

96.9  42  125/58  16  100% RA 

Exam notable for:  

NAD. No JVD. HEENT, heart, lungs unremarkable. Abdomen soft. ___ without edema. Neuro AOx3 without facial droop or gross 
focal
deficit.

ECG:  
per below; notably
Sinus brady, NA NI, no acute STTW changes

Labs showed:  

WBC 4.3
H/H 11.3/34.6 
Plt ___  19  
 ------------<72   AGap=14 
5.9  21  1.0  

Whole Blood K:4.8

Lactate:1.5

Troponins negative x2 (<0.01)

CK

TSH 2.8

CK  179 -> 140

___: 12.5  PTT: 26.5  INR: 1.2  

Imaging showed:  
CXR--no acute process

Consults:  
Cardiology:
"ECG: SB at 42. Low voltage. No change compared with ECG on
___.
 Tele: SB. No pauses or block. 

 Patient presents with diffuse weakness and fatigue starting 
last
night. Rates here are similar to her prior baseline. No syncope
or presyncope. Has not had issues with ambulation. No evidence 
of
pauses or block. Therefore, bradycardia unlikely the culprit for
her symptoms.
Recommended admission to medicine for workup, telemetry,
ambulation on telemetry, and TSH and CPK. "

Patient received:  
___ 07:28 IVF  NS   Started  
___ 07:28 PO/NG Levothyroxine Sodium 75 mcg 
___ 08:28 IVF  NS 1000 mL  Stopped (1h ___  

Transfer VS were:  

On arrival to the floor, patient is here with her daughter
___.
She reports it started suddenly last night, though "it might 
have
been accumulating." She felt tired and dehydrated. She woke up
last night and requested to come to be evaluated. 

Denies f/c, but had eye surgery(cataracts) last week.  
Denies n/v. Denies dysuria.
Denies dizziness or lightheadedness. Denies palpitations or CP. 
Denies SOB.
Denies abdominal pain. Denies blood in stool or urine. 
She does reports some new feeling of R arm weakness.
She reports good appetite, denies decreased PO intake.
Denies fainting or LOC. 

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI  
 
Past Medical History:
cataract
Hyponatremia.
Bilateral leg edema.
Hyperparathyroidism.
Hypothyroidism.
Hypercholesterolemia.
Colonic adenoma.
Sinus bradycardia.
Peripheral neuropathy.
 
Social History:
___
Family History:
father--kidney issues
mother--cancer

 
Physical ___:
ADMISSION PHYSICAL EXAM:  
VS:  
24 HR Data (last updated ___ @ ___
    Temp: 98.1 (Tm 98.1), BP: 123/66 (123-144/66-67), HR: 52
(52-67), RR: 18, O2 sat: 93% (93-99), O2 delivery: RA, Wt: 149.8
lb/67.95 kg  

GENERAL: NAD  
HEENT: AT/NC, anicteric sclera, MMM . PERRLA. evidence of mild R
eye injection, R eye cataract noted in bright light, no
purulence, no scleral abnormalities otherwise 
NECK: supple, no LAD  
CV: bradycardic, S1/S2, no murmurs, gallops, or rubs  
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ radial pulses bilaterally  
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric, strength ___ in UE and ___ bilaterally, reports vague
"numbness" in ___ bilaterally though reports she has intact
sensation to light touch bilaterally, CN II-XII grossly intact 
DERM: warm and well perfused, no excoriations or lesions, no
rashes 

DISCHARGE PHYSICAL EXAM
VITALS: T98.1 BP 128/60 HR 48 RR18 99% on RA
HR ambulating with RN: 51 at beginning, up to 67, asymptomatic
with ambulation

GENERAL: NAD. Chatting, pleasant
HEENT: AT/NC, anicteric sclera
NECK: supple.
CV: bradycardic, regular, S1/S2, no murmurs, gallops, or rubs  
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding,
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ radial and at DP bilaterally 
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric, CN II-XII grossly intact . Patellar reflexues
bilaterally. 
DERM: warm and well perfused, no excoriations or lesions, no
rashes 
 
Pertinent Results:
Admission labs:

___ 07:55AM   CK(CPK)-140
___ 07:55AM   cTropnT-<0.01
___ 07:55AM   TSH-2.8
___ 04:00AM   LACTATE-1.5 K+-4.8
___ 03:34AM   GLUCOSE-72 UREA N-19 CREAT-1.0 SODIUM-139 
POTASSIUM-5.9* CHLORIDE-104 TOTAL CO2-21* ANION GAP-14

___ 03:34AM   ALT(SGPT)-14 AST(SGOT)-32 CK(CPK)-179 ALK 
PHOS-65 TOT BILI-0.9
___ 03:34AM   LIPASE-66*
___ 03:34AM   cTropnT-<0.01
___ 03:34AM   ALBUMIN-3.0* CALCIUM-8.5 PHOSPHATE-3.0 
MAGNESIUM-2.0
___ 03:34AM   TSH-2.8
___ 03:34AM   WBC-4.3 RBC-3.66* HGB-11.3 HCT-34.6 MCV-95 
MCH-30.9 MCHC-32.7 RDW-14.7 RDWSD-51.1*
___ 03:34AM   NEUTS-57.0 ___ MONOS-8.3 EOS-0.9* 
BASOS-0.7 IM ___ AbsNeut-2.46 AbsLymp-1.42 AbsMono-0.36 
AbsEos-0.04 AbsBaso-0.03
___ 03:34AM   PLT COUNT-162
___ 03:34AM   ___ PTT-26.5 ___
___ 03:00AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:00AM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-TR*
___ 03:00AM URINE  RBC-1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-<1

Discharge labs:

___ 06:45AM BLOOD WBC-5.0 RBC-3.98 Hgb-12.5 Hct-38.3 MCV-96 
MCH-31.4 MCHC-32.6 RDW-14.8 RDWSD-53.2* Plt ___

___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-68* UreaN-18 Creat-1.1 Na-139 
K-4.2 Cl-103 HCO3-28 AnGap-8*
___ 06:45AM BLOOD Calcium-9.0 Phos-2.6* Mg-1.8
___ 06:45AM BLOOD VitB___-___*

___ Echo:
IMPRESSION: Normal biventricular cavity sizes, regional/global 
systolic function. No valvular pathology or pathologic flow 
identified. Normal estimated pulmonary artery systolic pressure.

 
Brief Hospital Course:
___ with longstanding history of sinus bradycardia and 
hypothyroidism presents with weakness, admitted for ongoing 
medical workup.

ACUTE ISSUES: 
=============== 
#weakness: 
no clear medical etiology as eletrolytes, BMP appear within
normal limits. No evidence of infection (negative WBC, negative
CXR and urine with small amount of blood, trace leuk esterace 
but no WBC, no bacteria and negative nitrites.) No evidence of 
block or acute ST
changes or TWI on EKG, and inpatient telemetry monitoring 
without evidence of pauses. Echo normal, and trops negative. 
Neurologic exam intact on examination normal with no focal 
deficits. TSH wnl. On brief review of PCP notes, it seems that 
she has had a history of intermittent weakness issues (though 
per her family's report has never been hospitalized.) Notably, 
had ED visit ___ for 1 month of weakness; however had 
subsequent PCP visit for ___ clearance without clear 
abnormalities. Able to ambulate with RN and with ___ without 
difficulty, no weakness/dizziness and appropriate heart rate 
increase from 51--> 67 BPM (baseline per review of outpatient 
records). At this time, no clear reason for weakness, though it 
appears that patient's symptoms have improved without 
intervention. She should have continued management of her 
polydipsia (though volume status euvolemic) in the outpatient 
setting, though this was not clearly related to her presentation 
at this time. She should keep outpatient f/u for bradycardia as 
per below; recommend ongoing work with patient in the outpatient 
setting with ___ and ___ given age and likelihood of frailty as 
she ages.

#bradycardia
Per chart review and report, longstanding history of 
bradycardia.
Reviewed EKG at admission, no evidence of new heart block (PR in
160s). Normal echo. Is not currently followed by a cardiologist.
Heart rate increased from 51 to 67 with ambulation, indicating
despite bradycardia, able to compensate during exertion. At this 
time, does not appear that patient is symptomatic from her 
bradycardia, and was able to ambulate around floor with HR at 
normal range (60-70s), with slower HR when resting. Feel 
comfortable arranging outpatient f/u for this issue and close 
monitoring by PCP. 

#recent cataract surgery
Patient underwent cataract surgery on ___.
- continue ketorolac eye drops-- to R eye BID per email from 
Ophthalmologist
- continue prednisolone eye drops - to R eye BID per email from 
Ophthalmologist
- recommend she keep Ophtho appointment on ___

CHRONIC ISSUES: 
=============== 
#hypothyroid: 
- continue home levoxyl

TRANSITIONAL ISSUES:

- CHANGED MEDICATIONS:
- ketorolac eye drops: R eye BID per email from Ophthalmologist
- prednisolone eye drops: R eye BID per email from 
Ophthalmologist

- NEW MEDICATIONS: none

- STOPPED MEDICATIONS: none

[] f/u lyme serologies
[] f/u B12 level
[] please continue to monitor patient's bradycardia
[] please ensure that she keeps cardiology follow up for 
bradycardia
[] please consider ongoing education for patient and family re: 
frailty with aging and possible need for walker/cane for her 
safety in the future
[] please ensure patient keeps appointment with Ophtho on ___

FULL CODE, CONFIRMED
Name of health care proxy: ___ 
Relationship: Daughter 
Phone number: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE QID 
2. Levoxyl (levothyroxine) 75 mcg oral 5X/WEEK 
3. Levoxyl (levothyroxine) 37.5 mcg oral 2X/WEEK 
4. ketorolac 0.4 % ophthalmic (eye) QID 

 
Discharge Medications:
1.  ketorolac 0.4 % ophthalmic (eye) BID 
apply to right eye twice a day  
2.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE BID 
apply to right eye twice a day  
3.  Levoxyl (levothyroxine) 75 mcg oral 5X/WEEK  
4.  Levoxyl (levothyroxine) 37.5 mcg oral 2X/WEEK (MO,TH)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
weakness
bradycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 
You came into the hospital because you were having weakness.

The emergency room doctors performed some tests, including an 
EKG of the heart, as well as an Echocardiogram, to figure out 
why you were having this weakness. 

None of our tests that we performed in the hospital showed any 
clear reason why you are having this weakness.

We checked your heart, which showed that you had a slow heart 
rate, however her heart was able to be fast enough while you are 
walking around. 

Your weakness got better, which is fantastic.

We did set up an appointment with your primary care doctor as 
well as a cardiologist to continue to evaluate you when you 
leave the hospital.

Please keep your appointment and continue to take your 
medications as prescribed.

We called your eye doctor, who recommended that you take your 
eye drops in the right eye twice a day.

Please take your eye drops twice a day, until you see your eye 
doctor at your follow-up appointment tomorrow.  

It was a pleasure taking care of you at ___. 

Sincerely,

Your ___ Medicine Team

 
Followup Instructions:
___